US06884821B1
0.8 g of 5-bromo-2-methoxyphenyl methanol was dissolved in 30 ml tetrahydrofuran. 2.6 g of 4-(trifluoromethyl)benzyl bromide and 0.22 g of sodium hydride (60% oily) were added thereto, followed by stirring at room temperature for 16 hours. Water was added to the reaction solution, followed by extracting with diethyl ether. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was subjected to silica gel column chromatography, to give 1.4 g of 4-bromo-1-methoxy-2-({[4-(trifluoromethyl)benzyl]oxy}methyl)benzene from fractions eluted with hexane-ethyl acetate (9:1).

reactant | 5-bromo-2-methoxyphenyl methanol | 0.8 g | BrC=1C=CC(=C(C1)CO)OC | C8H9BrO2
reactant | 4-(trifluoromethyl)benzyl bromide | 2.6 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | sodium hydride | 0.22 g | [H-].[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-bromo-1-methoxy-2-({[4-(trifluoromethyl)benzyl]oxy}methyl)benzene | 1.4 g | BrC1=CC(=C(C=C1)OC)COCC1=CC=C(C=C1)C(F)(F)F | C16H14BrF3O2
